US03946078
20 g of 50 % aqueous sulphuric acid (parts by weight) were added to 20.2 g (0.11 mole) of 2-methyl-1-hydroxy-1-[3-hydroxy-but-1-ynyl]-cyclohexane and the thus obtained mixture was stirred for 45 minutes at 50°. After having added water to the said mixture, it was extracted three times with pentane, and the combined organic extracts were washed, dried (MgSO4) and concentrated. The resulting residue gave, by fractional distillation, a product of b.p. 118°-120°/12 Torr; 10.9 g (60 %). By purification by means of vapour phase chromatography there was obtained 2-methyl-1-[but-2-enoyl]-cyclohex-1-ene.

reactant | sulphuric acid | 20 g | S(O)(O)(=O)=O | H2O4S
reactant | 2-methyl-1-hydroxy-1-[3-hydroxy-but-1-ynyl]-cyclohexane | 0.11 mole, 20.2 g | CC1C(CCCC1)(C#CC(C)O)O | C11H18O2
solvent | water | O | H2O
product | 2-methyl-1-[but-2-enoyl]-cyclohex-1-ene | CC1=C(CCCC1)C(C=CC)=O | C11H16O
